US06010981
D) 2-Methyl-3-(2-methylphenyl)-4-methylthioaniline (3-amino-2.2'-dimethyl-6-methylthiobiphenyl)
A solution of 2.0 g (7.9 mmol) of 2-methyl-3-(2-methylphenyl)-4-thiocyanoaniline in 15 mL of ethanol was added dropwise over a 20-min period with stirring to a solution of 2.2 g of sodium sulfide nonahydrate (9.1 mmol) in 5 mL of water. The mixture was stirred at ambient temperature for 2 hours and was then cooled with an ice/salt bath. A solution of 1.5 g (11 mmol) of methyl iodide in 5 mL of ethanol was added with stirring over a 10-min period. The mixture was diluted with water and the resulting mixture was extracted with ether. The ethereal extract was washed with water, dried over sodium sulfate, and concentrated by evaporation under reduced pressure. The 2.0 g of residue was the title compound of about 80 percent purity.

reactant | 2-methyl-3-(2-methylphenyl)-4-thiocyanoaniline | 7.9 mmol, 2.0 g | CC1=C(N)C=CC(=C1C1=C(C=CC=C1)C)SC#N | C15H14N2S
reactant | sodium sulfide nonahydrate | 9.1 mmol, 2.2 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | methyl iodide | 11 mmol, 1.5 g | CI | CH3I
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-Methyl-3-(2-methylphenyl)-4-methylthioaniline | CC1=C(N)C=CC(=C1C1=C(C=CC=C1)C)SC | C15H17NS
